US08183240B2
To a solution of ethyl 4-cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-ylthiophene-2-carboxylate (0.060 g, 0.15 mmol) in THF/MeOH/water (2:1:2) (5 mL) was added sodium hydroxide (0.061 g, 1.5 mmol). The reaction mixture was allowed to stir at rt for 20 h and was concentrated. The residue was acidified with 1N HCl and was extracted with EtOAc. The organic solutions were combined, washed with brine, dried over MgSO4, filtered and concentrated to give 4-cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-ylthiophene-2-carboxylic acid (0.034 g, 62%). LCMS: (FA) ES+ 382.9. 1H NMR (400 MHz, d6-DMSO) δ: 7.75 (d, 1H), 7.50 (dd, 1H), 7.39 (d, 1H), 3.79-3.74 (m, 4H) and 3.61-3.55 (m, 4H).

reactant | ethyl 4-cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-ylthiophene-2-carboxylate | 0.15 mmol, 0.060 g | C(#N)C=1C(=C(SC1N1CCOCC1)C(=O)OCC)C1=C(C=C(C=C1)Cl)Cl | C18H16Cl2N2O3S
reactant | sodium hydroxide | 1.5 mmol, 0.061 g | [OH-].[Na+]
solvent | THF MeOH water | 5 mL | C1CCOC1.CO.O
product | 4-cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-ylthiophene-2-carboxylic acid | 0.034 g, 62% | C(#N)C=1C(=C(SC1N1CCOCC1)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C16H12Cl2N2O3S
